.title KiCad schematic
.include "./2N3904_model.txt"
.include "./v.sub"
.save all
.probe alli
.probe p(XV1)
.probe p(V2)
.probe p(R2)
.probe p(C1)
.probe p(R3)
.probe p(R1)
.probe p(Q1)
XV1 in GND VFILE
V2 +9V GND DC 9
R2 Net-_Q1-C_ +9V 10k
C1 out Net-_Q1-C_ 1
R3 GND out 1Meg
R1 GND Net-_Q1-E_ 1k
Q1 Net-_Q1-C_ in Net-_Q1-E_ 2N3904
.control
tran 20.83u 5
sndparam output.wav 48000 wav24 1.0 0.0 1
sndprint v(out)
wrdata output v(out)
.endc
.end
